US06528528B2
3-[3-(3,5-Dichlorophenyl)-thioureido]-N-phenyl-benzamide
Prepared according to the procedure described for Example 60 using 3-aminobenzanilide (0.213 g, 1.0 mmol) and 3,5-dichlorophenyl isothiocyanate (0.208 g, 1.0 mmol). Trituration in ethyl acetate gave the product (0.304 g); m.p. 174-177° C.

reactant | 3-aminobenzanilide | 1.0 mmol, 0.213 g | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1 | C13H12N2O
reactant | 3,5-dichlorophenyl isothiocyanate | 1.0 mmol, 0.208 g | ClC=1C=C(C=C(C1)Cl)N=C=S | C7H3Cl2NS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[3-(3,5-Dichlorophenyl)-thioureido]-N-phenyl-benzamide | 0.304 g | ClC=1C=C(C=C(C1)Cl)NC(NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1)=S | C20H15Cl2N3OS
